US04290947
Mercuric chloride (12.37 g, 45.6 mmol) is added in one portion to a solution of (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one (6.0 g, 15.2 mmol) in 250 ml of absolute methanol at 0° C. The resulting mixture (heavy white precipitate) is stirred at 0° C. for 3 min., then quenched by addition of sodium bicarbonate (8.99 g,107 mmol). This mixture is then filtered and the solid residue is washed with additional methanol. The combined filtrate and washings are concentrated in vacuo and the residue is partitioned between ethyl acetate and saturated aqueous ammonium chloride solution. The organic phase is separated, washed with saturated aqueous ammonium chloride solution, water and brine and dried over magnesium sulfate. Removal of solvents in vacuo gives an oil which is chromatographed on a silica gel column (3:2 cyclohexane:ethyl acetate) to yield (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl)]-4-carbomethoxymethyl azetidin-2-one.

reactant | (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one | 15.2 mmol, 6.0 g | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(SC)(SC)SC)[C@@H](C)O)=O | C16H33NO2S3Si
reactant | sodium bicarbonate | 107 mmol, 8.99 g | C([O-])(O)=O.[Na+]
reactant | methanol | 250 ml | CO | CH4O
product | 4-carbomethoxymethyl azetidin-2-one | C(=O)(OC)CC1CC(N1)=O | C6H9NO3
